US08729105B2
Preparation of 5-(4-chlorophenyl)-6-(cyclopropylmethoxy)-N-((5-isopropylisoxazol-3-yl)methyl)nicotinamide
The title compound was synthesized in analogy to Example 1, using 5-(4-chloro-phenyl)-6-cyclopropylmethoxy-nicotinic acid (CAS Registry No. 1018782-76-7) and 5-(1-methylethyl)-3-isoxazolemethanamine (CAS Registry No. 154016-49-6) as starting materials, 426.2 (M+H)+.

reactant | 5-(4-chloro-phenyl)-6-cyclopropylmethoxy-nicotinic acid | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)O)C1)OCC1CC1 | C16H14ClNO3
reactant | 5-(1-methylethyl)-3-isoxazolemethanamine | CC(C)C1=CC(=NO1)CN | C7H12N2O
product | 5-(4-chlorophenyl)-6-(cyclopropylmethoxy)-N-((5-isopropylisoxazol-3-yl)methyl)nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)NCC2=NOC(=C2)C(C)C)C1)OCC1CC1 | C23H24ClN3O3
